US07192943B2
To a stirred solution of 2-[(tert-butoxycarbonyl)amino]-1-{[(tert-butoxycarbonyl)amino]methyl}ethyl methanesulfonate (10 g) in dimethyl sulfoxide (100 ml) was added sodium cyanide (2 g) at room temperature and the whole mixture was stirred overnight at room temperature. Water was added to the reaction mixture and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure and the residual oil was purified by column chromatography on silica gel (ethyl acetate:hexane=1:5) to give di-tert-butyl (2-cyano-1,3-propanediyl)biscarbamate (4.04 g).

reactant | 2-[(tert-butoxycarbonyl)amino]-1-{[(tert-butoxycarbonyl)amino]methyl}ethyl methanesulfonate | 10 g | CS(=O)(=O)OC(CNC(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C | C14H28N2O7S
reactant | sodium cyanide | 2 g | [C-]#N.[Na+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | di-tert-butyl (2-cyano-1,3-propanediyl)biscarbamate | 4.04 g | C(#N)C(CNC(OC(C)(C)C)=O)CNC(OC(C)(C)C)=O | C14H25N3O4
